US08859534B2
N-(3,3-Difluorocyclobutyl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide
The compound was prepared according to the procedure disclosed in Example 1 starting from lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate (80 mg, 0.21 mmol) and 3,3-difluorocyclobutanamine hydrochloride (48 mg, 0.34 mmol). Yield: 63 mg (64%).

reactant | lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate | 0.21 mmol, 80 mg | N1=C(C=CC=C1)CCN1CCN(CC1)C1=CC=CC=2C=C(OC21)C(=O)[O-].[Li+]
reactant | 3,3-difluorocyclobutanamine hydrochloride | 0.34 mmol, 48 mg | Cl.FC1(CC(C1)N)F
product | N-(3,3-Difluorocyclobutyl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide | FC1(CC(C1)NC(=O)C=1OC2=C(C1)C=CC=C2N2CCN(CC2)CCC2=NC=CC=C2)F | C24H26F2N4O2
